US04549988
8-Chloro-5-bromo-1-phenyl-3H-2-benzazepine-2-oxide
A solution of 6.9 g (20.7 mmole) of 8-chloro-5-bromo-1-phenyl-3H-2-benzazepine and 6 g (29 mmole) of 85% m-chloroperbenzoic acid in 100 ml of methylene chloride was stirred at room temperature for 1 hr. The mixture was washed with cold dilute sodium hydroxide, dried over anhydrous sodium sulfate and concentrated at reduced pressure to dryness. The residue was crystallized from ether to give a white solid, mp 184°-185° C. Recrystallization from ether gave colorless prisms, mp 185°-186° C. dec.

reactant | 8-chloro-5-bromo-1-phenyl-3H-2-benzazepine | 20.7 mmole, 6.9 g | ClC1=CC2=C(C(=CCN=C2C2=CC=CC=C2)Br)C=C1 | C16H11BrClN
reactant | m-chloroperbenzoic acid | 29 mmole, 6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 8-Chloro-5-bromo-1-phenyl-3H-2-benzazepine-2-oxide | ClC1=CC2=C(C(=CC[N+](=C2C2=CC=CC=C2)[O-])Br)C=C1 | C16H11BrClNO
